US06509328B1
{4-(6-Benzyloxy-pyridin-3-yl)-2-[3-(3-chloro-thiophen-2-yl)-3-oxo-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester
Prepared from [2-amino-4-(6-benzyloxy-pyridin-3-yl)-phenyl]-carbamic acid tert.-butyl ester (Example G30) (216 mg, 0.55 mmol) and 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J2) (142 mg, 0.58 mmol) according to the general procedure K. Obtained as a beige solid (172 mg).

reactant | [2-amino-4-(6-benzyloxy-pyridin-3-yl)-phenyl]-carbamic acid tert.-butyl ester | 0.55 mmol, 216 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1C=NC(=CC1)OCC1=CC=CC=C1)N)=O | C23H25N3O3
reactant | 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.58 mmol, 142 mg | ClC1=C(SC=C1)C1=CC(OC(O1)(C)C)=O | C10H9ClO3S
product | {4-(6-Benzyloxy-pyridin-3-yl)-2-[3-(3-chloro-thiophen-2-yl)-3-oxo-propionylamino]-phenyl}-carbamic Acid tert.-Butyl Ester | 172 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1C=NC(=CC1)OCC1=CC=CC=C1)NC(CC(=O)C=1SC=CC1Cl)=O)=O | C30H28ClN3O5S
